US03959289
A solution of 1 ml. of concentrated hydrochloric acid in 5 ml. of 5% ethanol is slowly added to a refluxing mixture of 10.1 g. of 1-chloro-2,6-dinitrobenzene, electrolytically reduced iron and 20 ml. of 50% ethanol. The mixture is heated at reflux for 2 hours. The mixture is allowed to cool slightly and the pH is adjusted to 8 with sodium hydroxide solution. The iron products are removed by filtration. The solvent is removed from the filtrate to leave a solid which is dissolved in water and extracted with methylene chloride. Removal of the solvents leaves an oily solid which upon recrystallization of from Skellysolve B gives off-white crystals of 2-chloro-1,3-diaminobenzene having a melting point of 82°-83.5° C.

reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | 1-chloro-2,6-dinitrobenzene | ClC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2-chloro-1,3-diaminobenzene | ClC1=C(C=CC=C1N)N | C6H7ClN2
